US07279494B2
III. methyl(2E)-3-{2,6-difluoro-4-[(isopropoxycarbonyl)amino]phenyl}acrylate
Sodium hydride (1.4 g of 60% dispersion, 35 mmol) was placed in a flask and washed three times with hexane. The resulting solid was suspended in DMF (29 mL) and cooled to 0° C. Trimethyl phosphonoacetate (5.95 mL, 36.75 mmol) was added dropwise to this suspension to give a clear homogeneous solution. After stirring for another 15 minutes at 0° C., a solution of isopropyl 3,5-difluoro-4-formylphenylcarbamate (8.51 g, 35 mmol) in DMF (25 mL) was added dropwise. The resulting orange suspension was allowed to warm slowly to room temperature and stirred for 16 hours. The reaction mixture was then poured into 0.5 N HCl and extracted with three portions of dichloromethane. Combined organic phases were washed with saturated NaHCO3, H2O, brine, and dried (MgSO4) filtered and concentrated. The resulting orange solid was washed with hexane, 30% ethyl acetate-hexane, and then purified by column chromatography (15-30% ethyl acetate-hexane) to provide title compound.

reactant | Sodium hydride | 35 mmol, 1.4 g | [H-].[Na+]
reactant | Trimethyl phosphonoacetate | 36.75 mmol, 5.95 mL | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | isopropyl 3,5-difluoro-4-formylphenylcarbamate | 35 mmol, 8.51 g | FC=1C=C(C=C(C1C=O)F)NC(OC(C)C)=O | C11H11F2NO3
reactant | HCl | 0.5 N | Cl | ClH
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | methyl(2E)-3-{2,6-difluoro-4-[(isopropoxycarbonyl)amino]phenyl}acrylate | FC1=C(C(=CC(=C1)NC(=O)OC(C)C)F)/C=C/C(=O)OC | C14H15F2NO4
